US05866567
(3aR*,10aS*)-9-(4-Aminobenzyl)-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e]-[1,4]diazepin-10(1H)-one hydrobromide
To a solution of (3aR*,10aS*)-9-[4-(benzyloxycarbonylamino)benzyl]-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one (366 mg, 0.58 mmol) in chloroform (3 mL) was added 25% hydrogen bromide/acetic acid (1 mL) and the mixture was stirred at room temperature for 75 minutes. This reaction mixture was concentrated under reduced pressure and the residue was crystallized from ethanoldiethyl ether to provide 309 mg (yield 92%) of the title compound. m.p. 222°-224° C.

reactant | (3aR*,10aS*)-9-[4-(benzyloxycarbonylamino)benzyl]-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 0.58 mmol, 366 mg | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(CN2C3=C(N([C@H]4[C@@H](C2=O)CCC4)C(CN4C(C=2C(C4=O)=CC=CC2)=O)=O)C=CC=C3)C=C1 | C37H32N4O6
reactant | hydrogen bromide acetic acid | 1 mL | Br.C(C)(=O)O
solvent | chloroform | 3 mL | C(Cl)(Cl)Cl | CHCl3
product | (3aR*,10aS*)-9-(4-Aminobenzyl)-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e]-[1,4]diazepin-10(1H)-one hydrobromide | 309 mg, yield 92% | Br.NC1=CC=C(CN2C3=C(N([C@H]4[C@@H](C2=O)CCC4)C(CN4C(C=2C(C4=O)=CC=CC2)=O)=O)C=CC=C3)C=C1 | InChI=1S/C29H26N4O4.BrH/c30-19-14-12-18(13-15-19)16-31-24-9-3-4-10-25(24)33(23-11-5-8-22(23)29(31)37)26(34)17-32-27(35)20-6-1-2-7-21(20)28(32)36;/h1-4,6-7,9-10,12-15,22-23H,5,8,11,16-17,30H2;1H/t22-,23+;/m0./s1
